* E:\dev\Guitar Pedals\sonic-sandbox\simulations\buffers.asc
C1 N003 N002 100n
R1 N003 Vbias 1Meg
XU3 N001 Vbias vcc 0 Vbias LMX58_LM2904
V1 vcc 0 9
R2 vcc N001 100k
R3 N001 0 100k
C2 N001 0 1µ
C3 N001 0 100n
V2 N002 0 SINE(0 20m 1k) AC 1 Rser=10k
R4 FxInBuf 0 1Meg
R5 N004 N005 1k
R6 FxInBuf N004 10k
C5 N005 0 10µ
V4 vee 0 -9
XU1 N003 N004 vcc 0 FxInBuf AD8666-2 AD8666-2
.INCLUDE lmx58_lm2904.lib
* .tran 10m
.ac dec 100 10 30k
* .noise V{FxInBuf} V2 dec 100 10 40k
.lib AD8666-2.cir
.backanno
.end
